US04053618
Using the procedure of Example 4, 2-propyl-5-thiazole-carboxaldehyde [prepared by reaction of manganese dioxide and 2-propyl-5-hydroxymethyl-thiazole in benzene] and ethyl diethylphosphonocrotonate were reacted to obtain ethyl 5-(2-propyl-5-thiazolyl)-2,4-pentadienoate melting at 52°C.

reactant | 2-propyl-5-thiazole-carboxaldehyde | C(CC)C=1SC(=CN1)C=O | C7H9NOS
reactant | ethyl diethylphosphonocrotonate | C(C)OP(=O)(OCC)/C(/C(=O)OCC)=C\C | C10H19O5P
product | ethyl 5-(2-propyl-5-thiazolyl)-2,4-pentadienoate | C(CC)C=1SC(=CN1)C=CC=CC(=O)OCC | C13H17NO2S
